US07981903B2
Step A/Intermediate B75: 1,1-dimethylethyl [2-(methyloxy)-5-nitrophenyl]carbamate
To a solution of 2-(methyloxy)-5-nitroaniline (10 g, 60 mmol, Aldrich) in anhydrous THF (300 mL) was added triethylamine (12.05 g, 120 mmol, Aldrich) and di-tert-butyl dicarbonate (15.6 g, 70 mmol, Aldrich) with catalytic DMAP (˜0.100 g). After overnight stirring, the reaction was concentrated under reduced pressure, redissolved in ethyl acetate (300 mL), and washed with 10% citric acid (100 mL). The solvent was then removed by rotary evaporation, and the crude 1,1-dimethylethyl [2-(methyloxy)-5-nitrophenyl]carbamate placed under high vacuum and used without further purification. ESIMS (M+H)+=269.

reactant | 2-(methyloxy)-5-nitroaniline | 60 mmol, 10 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | triethylamine | 120 mmol, 12.05 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 70 mmol, 15.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 300 mL | C1CCOC1 | C4H8O
catalyst | DMAP | ˜0.100 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1,1-dimethylethyl [2-(methyloxy)-5-nitrophenyl]carbamate | COC1=C(C=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C12H16N2O5
